US04229443
A. 4-(2'-hydroxyethyl)-hexahydro-1H-azepine
To a stirred slurry of lithium aluminium hydride (5.70 g) in dry tetrahydrofuran (100 ml) was added β-carbethoxymethyl-caprolactam (10.3 g) in dry tetrahydrofuran (150 ml) over a period of 30 minutes. The mixture was refluxed for 2.5 hours, cooled and treated very slowly with water. The precipitate was filtered off and the filtrate was evaporated to yield the title compound as a viscous oil, which was used in the next step without purification.

reactant | lithium aluminium hydride | 5.70 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | β-carbethoxymethyl-caprolactam | 10.3 g | C(=O)(OCC)CC1CC(=O)NCCC1 | C10H17NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-(2'-hydroxyethyl)-hexahydro-1H-azepine | OCCC1CCNCCC1 | C8H17NO
